US06967220B2
c) N-(4-Butoxy-3,5-dichlorobenzyl)-N-hydroxyformamide
To a solution of the crude N-benzyloxy-N-(4-butoxy-3,5-dichlorobenzyl)formamide in 5 ml of methanol was added 100 mg of 10% palladium on carbon. This was stirred under a hydrogen atmosphere for 50 min. Filtration and removal of volatiles in vacuo then purification by preparative HPLC afforded the title compound (71 mg, 41%) as an off-white solid. 1H NMR (400 MHz, CD3OD) δ 8.36, 8.20* (s, 1H); 7.37*, 7.33 (s, 2H); 4.64, 4.61* (s, 2H); 4.01 (t, j=6.4 Hz, 2H), 1.80 (quint, j=7.6 Hz, 2H), 1.57 (sext, j=7.6 Hz, 2H), 1.00 (t, j=7.2 Hz, 3H). M+1=292.*: minor rotamer

reactant | N-benzyloxy-N-(4-butoxy-3,5-dichlorobenzyl)formamide | C(C1=CC=CC=C1)ON(C=O)CC1=CC(=C(C(=C1)Cl)OCCCC)Cl | C19H21Cl2NO3
solvent | methanol | 5 ml | CO | CH4O
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | N-(4-Butoxy-3,5-dichlorobenzyl)-N-hydroxyformamide | 71 mg, 41% | C(CCC)OC1=C(C=C(CN(C=O)O)C=C1Cl)Cl | C12H15Cl2NO3
